US08975400B2
7-((3-fluoro-4-(3,4,5-trifluorophenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimi-dazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using (3-fluoro-4-(3,4,5-trifluorophenoxy)phenyl)methanol in THF (6 mL), sodium hydride (0.013 g, 0.323 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (0.040 g, 0.216 mmol) in DMF (1 mL).

reactant | (3-fluoro-4-(3,4,5-trifluorophenoxy)phenyl)methanol | FC=1C=C(C=CC1OC1=CC(=C(C(=C1)F)F)F)CO | C13H8F4O2
reactant | sodium hydride | 0.323 mmol, 0.013 g | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.216 mmol, 0.040 g | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-((3-fluoro-4-(3,4,5-trifluorophenoxy)benzyl)oxy)-1-methyl-2,3-dihydroimi-dazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C)C=CC1OC1=CC(=C(C(=C1)F)F)F | C20H15F4N3O3
